US07179822B2
Step 3: [4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl)phenoxy]acetic acid
A solution of [4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl) phenoxy]-acetic acid tert-butyl ester (0.19 g. 0.38 mmol) in trifluoroacetic acid (“TFA”) (6 mL) was stirred at room temperature for 75 minutes, then evaporated to dryness. The residue was triturated with ether, evaporated, triturated again with ether/hexanes, evaporated, then triturated with hexanes/ethyl acetate 3:1. The solid was collected by filtration, washed with hexanes/ethyl acetate 3:1 and dried to give 0.1047 g of orange solid (59.11% yield).

reactant | [4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl) phenoxy]-acetic acid tert-butyl ester | 0.38 mmol, 0.19 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)CN1N=C(N=N1)C1=CC(=CC=C1)C#CCC1=CC=C(C=C1)F)=O | C29H27FN4O3
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl)phenoxy]acetic acid | 0.1047 g, 59.11% yield | FC1=CC=C(C=C1)CC#CC=1C=C(C=CC1)C=1N=NN(N1)CC1=CC=C(OCC(=O)O)C=C1 | C25H19FN4O3
